US05716624
(a) Preparation of 4-bromophenylsulfinylmethane
4.06 g (20 mmol) of 4-bromothioanisole and 75 ml of dichloromethane were introduced into a round-bottomed flask and 6.3 g (20 mmol) of meta-chloroperbenzoic acid were added. Stirring was carried out at room temperature for four hours and the reaction mixture was poured into water. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with a mixture of dichloromethane and heptane (70/30). After evaporating the solvents, 1.22 g (28%) of the expected sulfoxide, with a melting point of 80°-81° C., was recovered.

reactant | 4-bromothioanisole | 20 mmol, 4.06 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
reactant | meta-chloroperbenzoic acid | 20 mmol, 6.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | 4-bromophenylsulfinylmethane | BrC1=CC=C(C=C1)S(=O)C | C7H7BrOS
